US07199147B2
Acetic anhydride (2.1 ml, 22.3 mmol), tetra-n-butylammonium bromide (118 mg, 0.366 mmol), potassium acetate (1.44 g, 14.7 mmol) and isoamyl nitrite (1.3 ml, 9.68 mmol) were added to an ethyl acetate suspension (15 ml) of N-(4-cyano-2,3-dimethylphenyl)acetamide (1.38 g, 7.33 mmol) at room temperature, and then the reaction was carried out for 7 hours under reflux conditions. The reaction mixture was cooled, diluted with ethyl acetate, and then washed with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then distilled to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: n-hexane/chloroform) to obtain 4-methyl-1H-indazole-5-carbonitrile (1.24 g, 84.9%).

reactant | Acetic anhydride | 22.3 mmol, 2.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 14.7 mmol, 1.44 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrite | 9.68 mmol, 1.3 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | N-(4-cyano-2,3-dimethylphenyl)acetamide | 7.33 mmol, 1.38 g | C(#N)C1=C(C(=C(C=C1)NC(C)=O)C)C | C11H12N2O
catalyst | tetra-n-butylammonium bromide | 0.366 mmol, 118 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 4-methyl-1H-indazole-5-carbonitrile | 1.24 g, 84.9% | CC1=C2C=NNC2=CC=C1C#N | C9H7N3
